US08202873B2
3′-(2,6-Dimethylphenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine dihydrochloride
Dissolve 3′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester (1.00 g, 3.35 mmol) in N,N-dimethylacetamide (purged with nitrogen) (12 mL). Add potassium carbonate (1.11 g, 8.04 mmol) then 2,6-dimethylbenzeneboronic acid (602 mg, 4.02 mmol) and purge with nitrogen for 10 min. Add deoxygenated water (6 mL) and tetrakis(triphenylphosphine)palladium(0) (0.039 g, 0.034 mmol) and purge with nitrogen for 10 min. Heat at 115° C. for 20 hr. under nitrogen. Cool to room temperature, add water (20 mL), extract with DCM (3×20 mL) and pass through an IST Phase Separator Frit® and concentrate. Dissolve in methanol, filter off solid and purify filtrate by SCX-2® chromatography washing with methanol then eluting with 2 M ammonia in methanol. Concentrate, then stir in HCl in dioxane (4 M, 50 mL) for 3 hr. at room temperature. Reduce solvent, add potassium carbonate (2 g), filter and concentrate filtrate. Purify by SCX-2® chromatography, washing with methanol then eluting with 4 M ammonia in methanol, and concentrate. Add HCl in diethyl ether (1 M, 20 mL) and concentrate, then dry under vacuum at 40° C. to give the title preparation as yellow crystals (650 mg, 57%). MS (ES): m/z=269 [M+H]+.

reactant | 3′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester | 3.35 mmol, 1.00 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CN=C1Cl | C13H19ClN4O2
reactant | potassium carbonate | 8.04 mmol, 1.11 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,6-dimethylbenzeneboronic acid | 4.02 mmol, 602 mg | CC1=C(C(=CC=C1)C)B(O)O | C8H11BO2
reactant | water | 6 mL | O | H2O
solvent | N,N-dimethylacetamide | 12 mL | CN(C(C)=O)C | C4H9NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.034 mmol, 0.039 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3′-(2,6-Dimethylphenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine dihydrochloride | Cl.Cl.CC1=C(C(=CC=C1)C)C=1C(=NC=CN1)N1CCNCC1 | InChI=1S/C16H20N4.2ClH/c1-12-4-3-5-13(2)14(12)15-16(19-7-6-18-15)20-10-8-17-9-11-20;;/h3-7,17H,8-11H2,1-2H3;2*1H
